US08623889B2
Step 1: 5-bromo-2-chloroisonicotinaldehyde
To a solution of 5-bromo-2-chloro-4-methylpyridine (5.0 g, 20 mmol) in N,N-dimethylformamide (38 mL) was added tert-butoxybis(dimethylamino)methane (7.0 mL, 33.9 mmol). The reaction mixture was heated at 120° C. for 2 hours. The cooled reaction mixture was concentrated in vacuo to afford a thick orange oil, which was redissolved in tetrahydrofuran (40 mL) and slowly poured into a separate flask containing slurry of sodium periodate in water (150 mL) at 0° C. The reaction flask was equipped with an overhead stirrer and allowed to warm to room temperature. The reaction mixture was mixed vigorously for three hours, and then diluted with dichloromethane (150 mL) and filtered. The collected solids were washed with dichloromethane (2×150 mL), and the organic layer was separated from the filtrate and washed with saturated sodium bicarbonate solution (50 mL). The aqueous layer was neutralized via addition of solid sodium bicarbonate, and then back-extracted with dichloromethane (100 mL). The organic portions were combined, dried over sodium sulfate, filtered, and evaporated in vacuo to afford a residue that was purified by flash chromatography (silica, 120 g, ISCO, 0-40% ethyl acetate in heptane) to afford the title compound as an off-white solid (4.03 g, 80%). 1H NMR (500 MHz, d6-DMSO) δ 10.10 (s, 1H), 8.85 (s, 1H), 7.81 (s, 1H).

reactant | 5-bromo-2-chloro-4-methylpyridine | 20 mmol, 5.0 g | BrC=1C(=CC(=NC1)Cl)C | C6H5BrClN
reactant | tert-butoxybis(dimethylamino)methane | 33.9 mmol, 7.0 mL | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
reactant | sodium periodate | I(=O)(=O)(=O)[O-].[Na+]
solvent | N,N-dimethylformamide | 38 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | water | 150 mL | O | H2O
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 5-bromo-2-chloroisonicotinaldehyde | 4.03 g, 80% | BrC1=CN=C(C=C1C=O)Cl | C6H3BrClNO
